US06506901B2
Step A: [1-({4-[({[3-(2-Thienyl)propyl]amino}-carbonyl)amino]phenyl}sulfonyl)-4-piperidinyl]methylcarbamic Acid t-Butyl Ester
A solution of 4-(2-thienyl)butanoic acid (1.35 g, 7.90 mmol), [1-(4-aminobenzen-esulfonyl)-piperidin-4-ylmethyl]-carbamic acid t-butyl ester (2.90 g, 7.90 mmol) and carbonyldiimidazole (1.27 g, 7.9 mmol) in methylene chloride was stirred overnight at ambient temperature. The reaction mixture was washed with 1N NaOH, 1N HCl, and brine. The organic phase was dried (Na2SO4) and concentrated in vacuo to give near quantitative yield of the title compound.

reactant | 4-(2-thienyl)butanoic acid | 7.90 mmol, 1.35 g | S1C(=CC=C1)CCCC(=O)O | C8H10O2S
reactant | [1-(4-aminobenzen-esulfonyl)-piperidin-4-ylmethyl]-carbamic acid t-butyl ester | 7.90 mmol, 2.90 g | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N)=O | C17H27N3O4S
reactant | carbonyldiimidazole | 7.9 mmol, 1.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [1-({4-[({[3-(2-Thienyl)propyl]amino}-carbonyl)amino]phenyl}sulfonyl)-4-piperidinyl]methylcarbamic Acid t-Butyl Ester | quantitative yield | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC(=O)NCCCC=1SC=CC1)=O | C25H36N4O5S2
